US09102614B2
Preparation of (S)-2-tert-butoxy-2-(1-(4,4-dimethylcyclohex-1-enyl)-3-methylnaphthalen-2-yl)acetic acid (14):
To a solution of (S)-ethyl 2-tert-butoxy-2-(1-(4,4-dimethylcyclohex-1-enyl)-3-methylnaphthalen-2-yl)acetate (36 mg, 0.087 mmol) in tetrahydrofuran:ethanol:water (2:2:1, 5 mL) was added lithium hydroxide (21 mg, 0.88 mmol) and the reaction was heated to 35° C. overnight. The reaction was then heated to 45° C. for 2 hours, and subsequently 5 equivalents of lithium hydroxide was added, and the reaction stirred at room temperature over 2 days. The reaction was then heated to 50° C. overnight. The crude reaction was purified by reverse phase HPLC (Gemini, 20-100% ACN/H2O+0.1% TFA). Product was lyophilized to give a white powder (8.6 mg). 1H-NMR: 400 MHz, (CD3OD) δ: 7.82 (d, J=8.0 Hz, 1H), 7.71 (d, J=7.6 Hz, 1H), 7.54 (s, 1H), 7.39 (m, 2H), 5.66 (m, 2H), 2.66 (m, 1H), 2.58 (s, 3H), 2.13 (m, 3H), 1.64 (m, 2H), 1.23 (s, 9H), 1.16 (s, 3H), 1.14 (s, 3H). LCMS-ESI− (m/z): [M−H]− calcd for C25H31O3: 379.24. found: 379.27.

reactant | (S)-ethyl 2-tert-butoxy-2-(1-(4,4-dimethylcyclohex-1-enyl)-3-methylnaphthalen-2-yl)acetate | 0.087 mmol, 36 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)C1=CCC(CC1)(C)C | C27H36O3
reactant | lithium hydroxide | 0.88 mmol, 21 mg | [OH-].[Li+]
reactant | lithium hydroxide | 5 equivalents | [OH-].[Li+]
solvent | tetrahydrofuran ethanol water | 5 mL | O1CCCC1.C(C)O.O
product | (S)-2-tert-butoxy-2-(1-(4,4-dimethylcyclohex-1-enyl)-3-methylnaphthalen-2-yl)acetic acid | 8.6 mg | C(C)(C)(C)O[C@H](C(=O)O)C1=C(C2=CC=CC=C2C=C1C)C1=CCC(CC1)(C)C | C25H32O3
